US08957205B2
2-[4-[2-(4-Methyl-1-piperazinyl)-4-thiazolyl]phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one
450 mg (2.5 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added to a solution of 910 mg (2.1 mmol) of 1-[[[4-[2-(4-methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexanecarboxylic acid in 20 ml of dimethylformamide. After the mixture was stirred at room temperature for 4 hours, the reaction solution was concentrated under reduced pressure, ethyl acetate was added thereto, and the mixture was successively washed with water, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, followed by drying with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 577 mg (67%) of the title compound.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.5 mmol, 450 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-[[[4-[2-(4-methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexanecarboxylic acid | 2.1 mmol, 910 mg | CN1CCN(CC1)C=1SC=C(N1)C1=CC=C(C=C1)C(=O)NC1(CCCCC1)C(=O)O | C22H28N4O3S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-[4-[2-(4-Methyl-1-piperazinyl)-4-thiazolyl]phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 577 mg, 67% | CN1CCN(CC1)C=1SC=C(N1)C1=CC=C(C=C1)C1=NC2(C(O1)=O)CCCCC2 | C22H26N4O2S
